US04866065
In exactly the same manner ethyl 4-phenyl-2-(N'-methylureido)thiophene-3-carboxylate. m.p. 109°-12° C. and ethyl 2-(N'-ethylureido)-4-phenyl-thiophene-3-carboxylate M.p. 129°-33° C. were prepared from ethyl 2-amino-4-phenyl-thiophene-3-carboxylate (Gewald et. al., Chem. Ber. 99, 94 (1966) and methylamine and ethylamine respectively.

reactant | ethyl 4-phenyl-2-(N'-methylureido)thiophene-3-carboxylate | C1(=CC=CC=C1)C=1C(=C(SC1)NC(=O)NC)C(=O)OCC | C15H16N2O3S
reactant | ethyl 2-amino-4-phenyl-thiophene-3-carboxylate | NC=1SC=C(C1C(=O)OCC)C1=CC=CC=C1 | C13H13NO2S
reactant | methylamine | CN | CH5N
reactant | ethylamine | C(C)N | C2H7N
product | ethyl 2-(N'-ethylureido)-4-phenyl-thiophene-3-carboxylate | C(C)NC(NC=1SC=C(C1C(=O)OCC)C1=CC=CC=C1)=O | C16H18N2O3S
